US05084463
Step 2) Preparation of 2-(Chloromethyl)-6-methoxyquinoline
6-Methoxyquinaldine N-Oxide (6.94 g, 36.71 mmol) was added to a stirring solution of p-toluenesulfonylchloride (7.0 g, 36.84 mmol) in dichloroethane (100 mL). The reaction was heated to 100° C. overnight, partitioned between 10% K2CO3 /ethyl acetate, dried over MgSO4, and evaporated under reduced pressure. The crude solid was purified by HPLC to afford 2.6 g (37%) of chloride.

reactant | 6-Methoxyquinaldine N-Oxide | 36.71 mmol, 6.94 g | COC1=CC2=CC=C([N+](=C2C=C1)[O-])C | C11H11NO2
reactant | p-toluenesulfonylchloride | 36.84 mmol, 7.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 2-(Chloromethyl)-6-methoxyquinoline | 2.6 g, 37% | ClCC1=NC2=CC=C(C=C2C=C1)OC | C11H10ClNO
